US05247042
A solution of 30.3 g (0.1 mole) of 4-triflyl-alpha-bromotoluene and 28.8 g (0.1 mole) of triphenylphosphine in xylene is heated at reflux for 19 hours. 4-Triflylbenzyltriphenylphosphonium bromide is then isolated by filtration, washed with additional portions of xylene, and dried.

reactant | 4-triflyl-alpha-bromotoluene | 0.1 mole, 30.3 g | S(=O)(=O)(C(F)(F)F)C1=CC=C(C=C1)CBr | C8H6BrF3O2S
reactant | triphenylphosphine | 0.1 mole, 28.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 4-Triflylbenzyltriphenylphosphonium bromide | [Br-].S(=O)(=O)(C(F)(F)F)C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C26H21F3O2PS.BrH/c27-26(28,29)33(30,31)25-18-16-21(17-19-25)20-32(22-10-4-1-5-11-22,23-12-6-2-7-13-23)24-14-8-3-9-15-24;/h1-19H,20H2;1H/q+1;/p-1
